US06534522B2
A) 2,2-Dimethyl-4-tosylmethyl-1,3-dioxolane
To a solution of solketal (2.00 mL, 16.0 mmol) in CH2Cl2 (50 mL) was added Et3N (4.50 mL, 32 mmol). A solution of p-toluensulfonyl chloride (4.30 g, 22 mmol) in CH2Cl2 (30 mL) was then added dropwise at 0° C. The resulting solution was stirred at 25° C. for 6 h, then was diluted with CH2Cl2 (50 mL). This solution was washed with HCl (5w, 100 mL) and brine (100 mL), dried and concentrated in Vacuo to afford the crude product. This was purified by flash-chromatography on silica gel using EtOAc/n-hexane as eluant to give the title compound as a colorless oil (2.03 g, 45%): 1H NMR (CDCl3) δ1.31 (s, 3H), 1.34 (s, 3H), 2.45 (s, 3H), 3.77 (q, J=5.1 and 8.7 Hz, 1H), 3.90-4.10 (m, 3H), 4.28 (p, J=5.7 Hz, 1H), 7.35 (d, J=8.1 Hz, 2H), 7.80 (d, J=8.1 Hz, 2H);

reactant | solketal | 16.0 mmol, 2.00 mL | CC1(OCC(O1)CO)C | C6H12O3
reactant | Et3N | 32 mmol, 4.50 mL | CCN(CC)CC | C6H15N
reactant | p-toluensulfonyl chloride | 22 mmol, 4.30 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 2,2-Dimethyl-4-tosylmethyl-1,3-dioxolane | 2.03 g, 45% | CC1(OCC(O1)CS(=O)(=O)C1=CC=C(C)C=C1)C | C13H18O4S
